US04927955
Among the methods of preparation of the products of formula (A) hereinabove there is described an O-alkylation that, starting from the 2-[(7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl)amino]-1-phenylethanol or from the 2-[(7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl)amino]-1-(3-chlorophenyl)ethanol, by reaction with ethyl bromoacetate gives the 2-[(7-carbethoxymethoxy-1,2,3,4-tetrahydronaphth-2-yl)amino]-1-phenylethanol or the 2-[(7-carbethoxymethoxy-1,2,3,4-tetrahydronaphth-2-yl)amino]-1-(3-chlorophenyl)ethanol. This reaction does not give yet good result because the yield of the final product is very low.

reactant | 2-[(7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl)amino]-1-phenylethanol | OC1=CC=C2CCC(CC2=C1)NCC(O)C1=CC=CC=C1 | C18H21NO2
reactant | 2-[(7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl)amino]-1-(3-chlorophenyl)ethanol | OC1=CC=C2CCC(CC2=C1)NCC(O)C1=CC(=CC=C1)Cl | C18H20ClNO2
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | 2-[(7-carbethoxymethoxy-1,2,3,4-tetrahydronaphth-2-yl)amino]-1-phenylethanol | C(=O)(OCC)COC1=CC=C2CCC(CC2=C1)NCC(O)C1=CC=CC=C1 | C22H27NO4
